US05559230
To a solution of 1-(4-aminobenzoyl)-1,2,3,4-tetrahydroquinoline (0.5 g) in dichloromethane (20 ml) is added triethylamine (0.3 g), and thereto is added benzoyl chloride (0.28 g) under ice-cooling. The mixture is stirred at room temperature for 1 hour. To the reaction mixture is added water and extracted with dichloromethane. The extract is dried over magnesium sulfate and the solvent is distilled off under reduced pressure. The resulting residue is purified by silica gel column chromatography (eluent; dichloromethane:methanol=50:1) and recrystallized from methanol to give 1-[4-(benzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline (245 mg) as white powder, m.p. 202.5°-203.5° C.

reactant | 1-(4-aminobenzoyl)-1,2,3,4-tetrahydroquinoline | 0.5 g | NC1=CC=C(C(=O)N2CCCC3=CC=CC=C23)C=C1 | C16H16N2O
reactant | triethylamine | 0.3 g | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.28 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-[4-(benzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline | 245 mg | C(C1=CC=CC=C1)(=O)NC1=CC=C(C(=O)N2CCCC3=CC=CC=C23)C=C1 | C23H20N2O2
